US07834063B2
4-[(2,2,2-Trifluoroethyl)(2-{[4-(trifluoromethyl)phenyl]oxy}ethyl)amino]-2-(trifluoromethyl)benzonitrile
Synthesized as described in Example 1C from 4-[(2-hydroxyethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile and 4-(trifluoromethyl)phenol: MS (El) m/z 456 (M+, 4%), 295 ([M-C7H4F3O]+, 9%), 281 (100%).

reactant | 4-[(2-hydroxyethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | OCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C12H10F6N2O
reactant | 4-(trifluoromethyl)phenol | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
product | 4-[(2,2,2-Trifluoroethyl)(2-{[4-(trifluoromethyl)phenyl]oxy}ethyl)amino]-2-(trifluoromethyl)benzonitrile | FC(CN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CCOC1=CC=C(C=C1)C(F)(F)F)(F)F | C19H13F9N2O
